US08207381B2
S-2-(1-Ethynyl-hexyloxy)-tetrahydropyran. To a solution of S-oct-1-yn-3-ol (900 mg, 7.13 mmol) and 3,4-dihydro-2H-pyran (901 mg, 10.7 mMol) in 5 mL dichloromethane, TsOH.H2O (13 mg, 0.071 mMol) was added. After the addition was completed, the reaction mixture was stirred for 12 h and quenched with saturated aq. NaHCO3. The mixture was extracted with DCM (20 mL×3) and washed with water (20 mL×2). After drying over Na2SO4 the solvent was removed and the product was purified by silica gel chromatography (AcOEt:hexane=1:10) to afford 2-(1-ethynyl-hexyloxy)tetrahydropyran (1.27 g, 85%) as colorless liquid. The product was a mixture of two diastereomers (ratio 1:5.8). Major diastereomer: 1H NMR (500 MHz, CDCl3) δ 4.98-4.97 (m, 1H), 4.40-4.43 (m, 1H), 3.79-3.83 (m, 1H), 3.53-3.55 (m, 1H), 2.38 (s, 1H), 1.71-1.84 (m, 4H), 1.44-1.62 (m, 6H), 1.33-1.34 (m, 4H), 0.91 (t, J=6.5 Hz, 3H) b. 2-[1-(3-Bromo-3,3-difluoro-prop-1-ynyl)-hexyloxy]-tetrahydro-pyran. To a solution of S-2-(1-ethynyl-hexyloxy)tetrahydropyran (1.24 g, 5.9 mmol) in dry THF 30 mL, a 2.5 M hexane solution of n-butyllithium (2.36 mL, 5.9 mmol) was added dropwise at approximately −90° C. (liquid N2/EtOH bath) under an argon atmosphere. After the reaction mixture was stirred for 30 minutes at that temperature, the reaction mixture was cooled to −110° C. (because the solvent along the wall of reaction flask froze at −110° C., it is helpful to maintain good stirring throughout). Cold dibromodifluoromethane (5.5 mL, 60 mmol) was added to the mixture by cannulation. The temperature of the reaction mixture was controlled very carefully during the addition of CF2Br2 using a thermometer immersed in the reaction mixture. The reaction temperature may rise to −90° C. or even higher even if CF2Br2 is introduced slowly. After the addition was completed, the mixture was allowed to warm to −50° C. with stirring during the course of 1 hour and quenched with sat. aq. NH4Cl (50 mL). The aqueous layer was extracted with ether (50 mL) and the organic layer was washed by water (10 mL×3). The organic layer was dried over Na2SO4. After evaporation of the solvent, the product was purified by silica gel chromatography (AcOEt:Hexane=1:10) to afford product (1.5 g, 75%) as colorless liquid. The product is mixture of two diastereomers (ratio 1:9.5). Major diastereomer:

reactant | 3,4-dihydro-2H-pyran | 10.7 mMol, 901 mg | O1CCCC=C1 | C5H8O
reactant | TsOH.H2O | 0.071 mMol, 13 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(1-ethynyl-hexyloxy)tetrahydropyran | 1.27 g, 85% | C(#C)C(CCCCC)OC1OCCCC1 | C13H22O2
